US05250678
Step B: 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-acetamidoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04.9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-carboxymethoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (24.3 mg) in methylene chloride:N,N-dimethylformamide (4:1, 0.5 mL) was added an admixture of 1-hydroxybenzotriazole hydrate (4.0 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.7 mg) and the mixture atirred at room temperature. After 30 minutes, ammonium hydroxide (4.0 μL of a 25% aqueous solution) was added and the mixture stirred for an additional 4 hours. At this time, the solution was filtered over diatomaceous earth, diluted with ethyl acetate, and extracted with sodium bicarbonate. The organic portion was dried over magnesium sulfate, concentrated in vacuo, and purified by flash chromatography on silica gel (ethyl acetate:hexane (1:1)+1% methanol, then (2:1)+1% methanol) to give the title compound (14 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-carboxymethoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 24.3 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(=O)O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C51H85NO14Si
reactant | 1-hydroxybenzotriazole hydrate | 4.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride N,N-dimethylformamide | 0.5 mL | C(Cl)Cl.CN(C=O)C
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-acetamidoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04.9 ]octacos-18-ene-2,3,10,16-tetraone | 14 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC(C)=O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C51H86N2O12Si
